US08604023B2
tert-Butyl 6-(7-chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-1-carboxylate
5,7-Dichloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one (245 mg) and di-tert-butyl 2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate (255 mg, 1.1 eq) were dissolved in dioxane/water (2 mL:0.65 mL), and cesium carbonate (327 mg, 2 eq) was added followed by lithium chloride (64 mg, 3 eq). The mixture was degassed with nitrogen and then tetrakis-triphenylphosphine palladium (0) (58 mg, 0.1 eq) was added. The mixture was degassed again, and the reaction was then heated to 80° C. for three hours. The crude mixture was partitioned between water and EtOAc and the organic fraction was then washed with brine, then dried over sodium sulfate and concentrated onto silica gel and purified by chromatography (gradient: 9:1 hexanes:EtOAc to EtOAc) delivering both the product 90 mg, 23% yield). MS (ES+) m/z 707.9 (M+Na) and m/z 807.9 (M+Na+Boc) and doubly Boc-protected material.

reactant | 5,7-Dichloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-1H-benzo[e][1,4]diazepin-2(3H)-one | 245 mg | ClC=1C2=C(N(C(C(N1)CCC1=C(C=CC=C1)Cl)=O)CC1=CC=C(C=C1)OC)C=CC(=C2)Cl | C25H21Cl3N2O2
reactant | di-tert-butyl 2-oxo-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-imidazo[4,5-b]pyridine-1,3(2H)-dicarboxylate | 255 mg, 1.1 eq | O=C1N(C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N1C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C22H32BN3O7
reactant | cesium carbonate | 327 mg, 2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | lithium chloride | 64 mg, 3 eq | [Cl-].[Li+]
solvent | dioxane water | 2 mL | O1CCOCC1.O
product | tert-Butyl 6-(7-chloro-3-(2-chlorophenethyl)-1-(4-methoxybenzyl)-2-oxo-2,3-dihydro-1H-benzo[e][1,4]diazepin-5-yl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-1-carboxylate | 90 mg, 23% yield | ClC1=CC2=C(N(C(C(N=C2C=2C=C3C(=NC2)NC(N3C(=O)OC(C)(C)C)=O)CCC3=C(C=CC=C3)Cl)=O)CC3=CC=C(C=C3)OC)C=C1 | C36H33Cl2N5O5
